US08115017B2
To a solution of 1-[4-(benzyloxy)-2-methylphenyl]ethanone (20.9 g, 87.1 mmol) in acetone (300 mL), a solution of NaBr (9.86 g, 95.9 mmol) in water (100 mL), water (200 mL) and Oxone® (oxone monopersulfate compound, Aldrich) (59.0 g, 95.9 mmol) were added and stirred at room temperature for 2.5 hours. The reaction mixture was mixed with a solution of sodium sulfite (20 g) in water (50 mL) under ice cooling, followed by addition of water and ethyl acetate to separate the organic layer. The organic layer was washed with 20 wt. % aqueous sodium sulfite and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was distilled off under reduced pressure to give a mixture (27.2 g) of 1-[4-(benzyloxy)-5-bromo-2-methylphenyl]ethanone and 1-[4-(benzyloxy)-3-bromo-2-methylphenyl]ethanone. To this mixture, a 5% solution of sodium hypochlorite (300 mL, 255 mmol) and a solution of potassium hydroxide (4.80 g, 85.3 mmol) in water (10 mL) were added and stirred at 120° C. for 1 hour. The reaction mixture was cooled to room temperature and filtered to collect the precipitated insoluble product, to which 2N hydrochloric acid was then added. After extraction with ethyl acetate, the organic layer was washed with 2N hydrochloric acid and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was distilled off under reduced pressure and the resulting residue was washed with methanol to give the titled compound (16.6 g, 59%, 2 steps) as a colorless powder.

reactant | 1-[4-(benzyloxy)-2-methylphenyl]ethanone | 87.1 mmol, 20.9 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(C)=O)C | C16H16O2
reactant | NaBr | 95.9 mmol, 9.86 g | [Na+].[Br-]
reactant | sodium sulfite | 20 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 300 mL | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | Oxone | OOS(=O)[O-].[K+]
solvent | water | 50 mL | O | H2O
product | 1-[4-(benzyloxy)-5-bromo-2-methylphenyl]ethanone | 27.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1Br)C(C)=O)C | C16H15BrO2
